US07812043B2
1-(5-Hydroxy-pentyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide
The title compound was prepared using 1H-indole-3-carboxylic acid thiazol-2-ylamide and 5-bromopentyl acetate as R5X.

reactant | 1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CNC2=CC=CC=C12 | C12H9N3OS
reactant | 5-bromopentyl acetate | C(C)(=O)OCCCCCBr | C7H13BrO2
product | 1-(5-Hydroxy-pentyl)-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CCCCCO | C17H19N3O2S
